### PR TITLE
chore: hash field in `Name` was dropped

### PR DESCRIPTION
**Pull request by gebner**
Companion PR to https://github.com/leanprover/lean4/pull/1291

### CODE REVIEW

File: Lake/Util/Compare.lean [hunk 1]
```diff
@@ -47,13 +47,34 @@ theorem Nat.eq_of_compare
 {n n' : Nat} : compare n n' = Ordering.eq → n = n' := by
   simp only [compare]; exact eq_of_compareOfLessAndEq
 
+@[simp]
+theorem Nat.compare_iff_eq
+{n n' : Nat} : compare n n' = Ordering.eq ↔ n = n' := by
```
Comment (gebner) [inline Lake/Util/Compare.lean:52]: BTW, you might want to consider upgrading the `EqOfCmp` class to `EqIffCmp` (with the `∀ a b, compare a b = .eq ↔ a = b` property).  This gives you a very nice simp lemma and make the proofs a lot smoother.

Comment (tydeu) [reply Lake/Util/Compare.lean:52]: This is true. Note that `eq_iff_cmp` is a strictly stronger requirement than `eq_of_cmp`, though, as it also requires that the compare be reflexive (i.e., that `compare a a = .eq`), which is not necessarily true. However, since `EqOfCmp` is already more general than the class directly required by `DRBMap` (i.e., `EqOfCmpWrt`), generalizing it some more likely couldn't hurt. It also should probably be called `CmpIffEq` based on the ordering in the theorems.

File: Lake/Util/Name.lean [hunk 2]
```diff
@@ -16,87 +16,31 @@ export Lean (Name NameMap)
...
 
-@[simp] theorem beq_rfl (n : Name) : (n == n) = true := by
-  simp only [BEq.beq]; induction n <;> simp [Name.beq, *]
-
-@[simp] theorem isPrefixOf_self {n : Name} : n.isPrefixOf n = true := by
-  cases n <;> simp [Name.isPrefixOf]
-
-@[simp] theorem isPrefixOf_append {n m : Name} : n.isPrefixOf (n ++ m) = true := by
-  simp only [HAppend.hAppend, Append.append]
-  induction m <;> simp [Name.isPrefixOf, Name.append, *]
```
Comment (tydeu) [inline Lake/Util/Name.lean:27]: I think you may have accidently deleted these theorems.

Comment (gebner) [reply Lake/Util/Name.lean]: `beq_rfl` is redundant now.  The other ones are indeed an accident.

File: Lake/Config/TargetConfig.lean [hunk 3]
```diff
@@ -11,21 +11,21 @@ namespace Lake
...
+  package : Name
   /-- The type of the target's build result. -/
   resultType : Type
   /-- The target's build function. -/
   target : BuildTarget resultType
   /-- Proof that target's build result is the correctly typed target.-/
   data_eq_target : CustomData (package, name) = ActiveBuildTarget resultType
 
-family_def _nil_ : CustomData (&`✝, &`✝) := ActiveOpaqueTarget
+family_def _nil_ : CustomData (`«✝», `«✝») := ActiveOpaqueTarget
```
Comment (tydeu) [inline Lake/Config/TargetConfig.lean:24]: I forgot to mention this, but the `` &`✝ `` syntax notation for `Name.anonymous`, not a literal tombstone.

Comment (gebner) [reply Lake/Config/TargetConfig.lean]: Thanks for noticing!  This was very nonobvious.

Comment (tydeu) [reply Lake/Config/TargetConfig.lean]: I had hoped the syntax would be slightly intuitive given that the tombstone is used in the infoview for anonymous names, but I guess hope was misplaced. 😅

Comment (gebner) [reply Lake/Config/TargetConfig.lean]: Are you referring to names like `a✝`?  Those are *inaccessible*, not anonymous.  (And even if the terminology was the same, they're two very different concepts.)

**Comment by tydeu** [comment]
Sorry for another change, but the fix for #102 has created a conflict here.

**Comment by gebner** [comment]
Okay, updated.

**Comment by leodemoura** [comment]
> Okay, updated.

Thanks! I will go over it right now.

File: Lake/Config/TargetConfig.lean (hunk 3 above)
Comment (tydeu) [reply Lake/Config/TargetConfig.lean]: That was what I was referring to, yes. Sorry about my terminology mix-up. I know the concepts are different, however, I felt there was a reasonable connection between the two in that both cannot be written down by the user as a literal. Thus, I stole the symbol. However, given this back and forth that was probably not the wisest idea. 😓
